US06492383B1
(2-Benzooxazol-2-yl-thieno[3,2-b]pyridin-7-yl)-(2-methyl-1H-indol-5-yl)-amine
The title compound was prepared from 2-methyl-5-aminoindole and 2-(7-chloro-thieno[3,2-b]pyridin-2-yl)-benzooxazole by the procedure analogous to example 148(c) above. 1H NMR (400 MHz, CD3OD) δ8.18 (d, 1H), 8.10 (s, 1H), 7.70 (m, 2H), 7.40 (m, 4H), 6.98 (d, 1H), 6.68 (d, 1H), 6.14 (s, 1H), 2.43 (s, 3H); RP18-HPLC RT: 6.13 minutes; API MS 397 (M+1).

reactant | 2-methyl-5-aminoindole | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
reactant | 2-(7-chloro-thieno[3,2-b]pyridin-2-yl)-benzooxazole | ClC1=C2C(=NC=C1)C=C(S2)C=2OC1=C(N2)C=CC=C1 | C14H7ClN2OS
product | (2-Benzooxazol-2-yl-thieno[3,2-b]pyridin-7-yl)-(2-methyl-1H-indol-5-yl)-amine | O1C(=NC2=C1C=CC=C2)C2=CC1=NC=CC(=C1S2)NC=2C=C1C=C(NC1=CC2)C | C23H16N4OS
